US07579359B2
The methods described in Parts C and D of Example 20 were used to oxidize and aminate 2-butyl-1-methoxy-1H-imidazo[4,5-c]quinoline (3.2 g, 12.5 mmol) with the following modifications. The oxidation reaction was stirred for two hours at room temperature. The reaction with trichloroacetyl isocyanate (2.2 mL, 19 mmol) was carried out at room temperature overnight, and the reaction sodium methoxide was stirred overnight and then concentrated under reduced pressure. The residue was treated with methanol (5 mL) to form a solid, which was collected by filtration and recrystallized from methanol/water and dried overnight in a vacuum oven at 70° C. to provide 0.946 g of 2-butyl-1-methoxy-1H-imidazo[4,5-c]quinolin-4-amine as golden crystals, mp 197-199° C.

reactant | 2-butyl-1-methoxy-1H-imidazo[4,5-c]quinoline | 12.5 mmol, 3.2 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)OC | C15H17N3O
reactant | trichloroacetyl isocyanate | 19 mmol, 2.2 mL | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | sodium methoxide | C[O-].[Na+]
product | 2-butyl-1-methoxy-1H-imidazo[4,5-c]quinolin-4-amine | 0.946 g | C(CCC)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)OC | C15H18N4O
